US08334301B2
ethyl 1-(2-chlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate
To a solution of ethyl 1-(2-chlorophenyl)-5-hydroxy-1H-pyrazole-3-carboxylate (2.0 g) synthesized according to the method of US2004/214855 in tetrahydrofuran (15 mL) were added triethylamine (917 mg) and N-phenylbis(trifluoromethanesulfonimide) (3.2 g). After stirring at room temperature for 1 hr, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→7:1) to give the title compound as a yellow oil (yield 2.85 g, yield 95%).

reactant | ethyl 1-(2-chlorophenyl)-5-hydroxy-1H-pyrazole-3-carboxylate | 2.0 g | ClC1=C(C=CC=C1)N1N=C(C=C1O)C(=O)OCC | C12H11ClN2O3
reactant | triethylamine | 917 mg | C(C)N(CC)CC | C6H15N
reactant | N-phenylbis(trifluoromethanesulfonimide) | 3.2 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | ethyl 1-(2-chlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate | yield 2.85 g, yield 95% | ClC1=C(C=CC=C1)N1N=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC | C13H10ClF3N2O5S
